US09126981B2
Synthesis of (S)—N-benzyl-2-(1-(3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-methyl-1-oxopropan-2-yl)-2-methylhydrazinecarboxamide (Compound II-13)
According to the procedure described in the synthesis method of Compound II-1, 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)-2-methylpropanoic acid (Compound VI-5) (441 mg, 1.67 mmol) was coupled with (S)-2-amino-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)-N-(naphthalen-1-ylmethyl)propanamide (Compound IV-2) (544.6 mg, 1.11 mmol) and the obtained residue was purified by silica gel column chromatography (eluent: chloroform:methanol=98:2) to obtain the title compound (476 mg, 58%).

reactant | 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)-2-methylpropanoic acid | 1.67 mmol, 441 mg | C(C1=CC=CC=C1)NC(=O)NN(C)C(C(=O)O)(C)C | C13H19N3O3
reactant | (S)-2-amino-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)-N-(naphthalen-1-ylmethyl)propanamide | 1.11 mmol, 544.6 mg | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)CC(OCC)OCC)CC1=CC=C(C=C1)OC(C)(C)C | C30H40N2O4
product | (S)—N-benzyl-2-(1-(3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(naphthalen-1-ylmethyl)amino)-1-oxopropan-2-ylamino)-2-methyl-1-oxopropan-2-yl)-2-methylhydrazinecarboxamide | 476 mg, 58% | C(C1=CC=CC=C1)NC(=O)NN(C)C(C(=O)N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)CC(OCC)OCC)CC1=CC=C(C=C1)OC(C)(C)C)(C)C | C43H57N5O6
